US05753664
2-[4-(4-Chlorobenzoyl)benzylthio]-4(3H)-quinazolinone
A solution of 2-mercapto-4(3H)-quinazolinone (1.78 g), 4-(4-chlorobenzoyl)benzyl bromide (3.07 g) and 1N-sodium hydroxide/water (10.5 ml) in ethanol (20 ml) was stirred at room temperature for 30 minutes. To the reaction mixture was added water and the resulting precipitate was collected by filtration, washed with water, methanol and ethyl acetate, dried, and recrystallized from ethyl acetate to provide the title compound as colorless solid (3.24 g).

reactant | 2-mercapto-4(3H)-quinazolinone | 1.78 g | SC1=NC2=CC=CC=C2C(N1)=O | C8H6N2OS
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 3.07 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
reactant | sodium hydroxide water | 10.5 ml | [OH-].[Na+].O
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[4-(4-Chlorobenzoyl)benzylthio]-4(3H)-quinazolinone | 3.24 g | ClC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC=C4C(N3)=O)C=C2)C=C1 | C22H15ClN2O2S
